* C:\Users\adamp\Desktop\PAF - Pearl's Auto Feeder\PAF-hw\PAF-hw_Electrical\LTSpice Simulations\Soft_Start_Circuit_V2.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 PULSE(0 12 1u 1u 1u 1 1.02 1)
C1 N002 0 40µ
R1 N002 0 24
M1 N002 N003 N001 N001 NDT452AP
R2 N001 N003 1000000
R3 N003 0 40k
C3 N002 N003 10n
C4 N001 N003 100n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adamp\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 0.01 0 0.5u
.backanno
.end
